US06518423B1
3-(tert-Butoxycarbonyl)-3-azabicyclo[3.3.1]nonane-9-spirocyclobutan-3′-one
To 3.7 g of zinc/copper alloy was added a solution of 1.4 g of 3-(tert-butoxycarbonyl)-9-methylene-3-azabicyclo[3.3.1]-nonane in dry ether (30 ml). Subsequently, a solution of 2.6 ml of trichloroacetyl chloride in dry dimethoxyethane (50 ml) was dropped thereinto and the resulting mixture was reacted at room temperature for 3 hours. Then a saturated aqueous solution of sodium hydrogencarbonate was added to the reaction mixture while maintaining the mixture at 0° C. or below. After filtering off the zinc/copper alloy, the filtrate was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After concentrating under reduced pressure, the residue was purified by silica gel column chromatography (eluted with ethyl acetate/n-hexane) to thereby give 1.5 g of a yellow oily substance. This product was dissolved in 40 ml of a saturated solution of ammonium chloride in methanol. After adding 1.7 g of zinc, the resulting mixture was reacted at room temperature for 24 hours. After filtering off the zinc, water was added to the residue. Next, it was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After concentrating, the residue was purified by silica gel column chromatography (eluted with ethyl acetate/n-hexane) to thereby give 0.8 g of the title compound as a colorless oily substance.

reactant | 3-(tert-butoxycarbonyl)-9-methylene-3-azabicyclo[3.3.1]-nonane | 1.4 g | C(C)(C)(C)OC(=O)N1CC2CCCC(C1)C2=C | C14H23NO2
reactant | trichloroacetyl chloride | 2.6 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | zinc copper | 3.7 g | [Zn].[Cu]
catalyst | zinc | 1.7 g | [Zn] | Zn
product | 3-(tert-Butoxycarbonyl)-3-azabicyclo[3.3.1]nonane-9-spirocyclobutan-3′-one | 0.8 g | C(C)(C)(C)OC(=O)N1CC2CCCC(C1)C21CC(C1)=O | C16H25NO3
